US05073187
Preparation of 2,2-dimethyl-1-(pyrimid-5-yl)-butan-1-one
To a suspension of oil-free sodium hydride (2.4g, 0.1 moles) in dry dimethylformamide (60 mls) was added dropwise a solution of 2-methyl-1-(pyrimid-5-yl)-propan- 1-one in dry dimethylformamide (20 mls). The temperature rose to 35° C. and effervescence was observed. After the addition was complete, the mixture was stirred at room temperature for twenty minutes, and a solution of ethyl iodide (18.72 g, 0.12 moles) in dry dimethylformamide was added with external cooling provided by a water bath. The resulting mixture was stirred at room temperature for three hours, left to stand overnight and then poured into water and extracted twice with ether. The combined ether extracts were washed with water and dried over magnesium sulphate. After filtration, the solvent was removed in vacuo to give an oil. Distillation at reduced pressure (70°-82° C. at 0.3 mm of mercury) gave an oil (8.4 g) which was used without further purification. NMR analysis indicated that, in addition to the desired intermediate, the product contained 1-(O-ethyl)-1-(pyrimid-5-yl)-2-methylprop-1-ene. This latter by-product did not adversely affect the course of the second stage of the reaction.

reactant | sodium hydride | 0.1 moles, 2.4g | [H-].[Na+]
reactant | 2-methyl-1-(pyrimid-5-yl)-propan- 1-one | CC(C(=O)C=1C=NC=NC1)C | C8H10N2O
reactant | ethyl iodide | 0.12 moles, 18.72 g | C(C)I | C2H5I
reactant | water | O | H2O
solvent | dimethylformamide | 60 mls | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 mls | CN(C=O)C | C3H7NO
product | 2,2-dimethyl-1-(pyrimid-5-yl)-butan-1-one | 8.4 g | CC(C(=O)C=1C=NC=NC1)(CC)C | C10H14N2O
